US08022062B2
7-Chloro-6-([1,2,4]-oxadiazol-3-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Preparation 177, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 3-chloromethyl-1,2,4-oxadiazole to give, after deprotection using a method similar to the General Procedure 1-4, the title compound as a white solid. MS (ES+) m/z 296 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 3-chloromethyl-1,2,4-oxadiazole | ClCC1=NOC=N1 | C3H3ClN2O
product | 7-Chloro-6-([1,2,4]-oxadiazol-3-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC1=NOC=N1 | InChI=1S/C13H14ClN3OS.ClH/c14-11-2-1-9-3-5-15-6-4-10(9)13(11)19-7-12-16-8-18-17-12;/h1-2,8,15H,3-7H2;1H
